US08470820B2
Step 2: 5-Bromo-2-isopropyl-pyrimidine-4-carboxylic acid methyl ester
To a stirred, cooled (0° C.) solution of 5-bromo-2-isopropyl-pyrimidine-4-carboxylic acid (3 g, 12.2 mmol) in methanol (50 ml) under an argon atmosphere was added dropwise thionyl chloride (4.37 g, 2.68 ml, 36.7 mmol). When the addition was complete, the mixture was allowed to warm to r.t. and stirring at r.t. was continued for 17 h. The orange mixture was concentrated to leave a paste which was taken up in EtOAc (50 ml)/saturated aqueous Na2CO3 solution (50 ml). The aqueous phase was extracted with EtOAc. The combined organics were washed with H2O and brine, dried over MgSO4, filtered and concentrated to leave the product (2.98 g, 94%) as a light brown oil which was used in the next reaction step without further purification.

reactant | 5-bromo-2-isopropyl-pyrimidine-4-carboxylic acid | 12.2 mmol, 3 g | BrC=1C(=NC(=NC1)C(C)C)C(=O)O | C8H9BrN2O2
reactant | thionyl chloride | 36.7 mmol, 2.68 ml, 4.37 g | S(=O)(Cl)Cl | Cl2OS
reactant | Na2CO3 | 50 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Bromo-2-isopropyl-pyrimidine-4-carboxylic acid methyl ester | 2.98 g, 94% | COC(=O)C1=NC(=NC=C1Br)C(C)C | C9H11BrN2O2
